US07781478B2
1-Ethyl-6-methoxy-2-tributylstannanyl-1H-indole-3-carbonitrile (1.0 g, 2.05 mmol), prepared in step A, is combined with 3-iodophenol (474 mg, 2.15 mmol), Pd(PPh3)2Cl2 (67 mg, 0.102 mmol), CuI (75 mg, 0.39 mmol) and THF (4.0 mL). This mixture is heated at 65° C. overnight. The reaction mixture is diluted in EtOAc, and is filtered through celite. The filtrate is concentrated and the residue is purified by silica gel chromatography (4:1, CH2Cl2/EtOAc) to yield crude product. Ether trituration yields 1-ethyl-2-(3-hydroxy-phenyl)-6-methoxy-1H-indole-3-carbonitrile (430 mg, 72%) as a yellow-white solid.

reactant | 1-Ethyl-6-methoxy-2-tributylstannanyl-1H-indole-3-carbonitrile | 2.05 mmol, 1.0 g | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)[Sn](CCCC)(CCCC)CCCC
reactant | 3-iodophenol | 2.15 mmol, 474 mg | IC=1C=C(C=CC1)O | C6H5IO
reactant | THF | 4.0 mL | C1CCOC1 | C4H8O
reactant | Ether | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.102 mmol, 67 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.39 mmol, 75 mg | [Cu]I
product | 1-ethyl-2-(3-hydroxy-phenyl)-6-methoxy-1H-indole-3-carbonitrile | 430 mg, 72% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC(=CC=C1)O | C18H16N2O2
